US08633173B2
To a mixture of 2-ethynyl-phenylamine (126.0 mg, 1.075 mmol) and N,N-diisopropylethylamine (2 mL, 10 mmol) in N,N-dimethylformamide (1 mL) at room temperature under an atmosphere of nitrogen was added 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (250.0 mg, 1.075 mmol), bBis(triphenylphosphine)palladium(II) chloride (10.0 mg, 0.0142 mmol) and copper(I) iodide (7.0 mg, 0.037 mmol). The mixture was stirred at room temperature for 18 hours then was poured into 0.1N hydrochloric acid (100 mL) and extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with water (2×20 mL) and saturated aqueous sodium chloride (20 mL), dried over magnesium sulfate, filtered and evaporated. The residue was purified using prepartory silica gel plates (20 cm×20 cm 100% dichloromethane). 2-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenylamine was isolated as a yellow solid (0.158 g, 55%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.43 (d, J=6.7 Hz, 1H), 7.66 (d, J=7.4 Hz, 1H), 7.39 (d, J=7.7 Hz, 1H), 7.19 (t, J=7.8 Hz, 1H), 7.07 (t, J=7.0 Hz, 1H), 6.77-6.67 (m, 2H), 4.81 (br s, 2H). MS=269, 271 (MH)+.

reactant | 2-ethynyl-phenylamine | 1.075 mmol, 126.0 mg | C(#C)C1=C(C=CC=C1)N | C8H7N
reactant | N,N-diisopropylethylamine | 10 mmol, 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 1.075 mmol, 250.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | hydrochloric acid | 0.1N, 100 mL | Cl | ClH
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.037 mmol, 7.0 mg | [Cu]I
product | 2-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenylamine | ClC1=NN2C(C(=CC=C2)C#CC2=C(C=CC=C2)N)=N1 | C14H9ClN4
